US07101903B2
9-Benzyl-6-[4-(trifluoromethoxy)phenyl]-1,9-dihydropyrano[3,4-b]indole-3,4-dione
The title compound was prepared from {2-(Hydroxymethyl)-1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid, potassium salt and aqueous HCl in substantially the same manner, as described in step 7 of Example 1. The product was obtained as an off-white solid; mp: 239–240° C. Mass spectrum (ESI, [M+H]+) m/z 452. 1H NMR (400 MHz, DMSO-d6) δ 8.24 (s, 1H), 7.81 (dd, 2H, J=8.86 and 2.14 Hz), 7.74 (d, 1H, J=8.56 Hz), 7.68 (dd, 1H, J=8.54 and 1.83 Hz), 7.46 (d, 2H, J=7.94 Hz), 7.37–7.26 (m, 5H,), 5.93 (s, 2H), and 5.56 ppm (s, 2H).

reactant | {2-(Hydroxymethyl)-1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | OCC=1N(C2=CC=C(C=C2C1C(C(=O)O)=O)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=CC=C1 | C25H18F3NO5
reactant | potassium | [K] | K
reactant | HCl | Cl | ClH
product | 9-Benzyl-6-[4-(trifluoromethoxy)phenyl]-1,9-dihydropyrano[3,4-b]indole-3,4-dione | C(C1=CC=CC=C1)N1C2=C(C3=CC(=CC=C13)C1=CC=C(C=C1)OC(F)(F)F)C(C(OC2)=O)=O | C25H16F3NO4
